US07470689B2
f) 4-(5-Chloro-1H-benzoimidazol-2-yl)-6-(2-ethylaminopyrimidin-4-yl)-2H -pyridazin-3-one
6-(2-Ethylaminopyrimidin-4-yl)-3-oxo-2,3-dihydropyridazine-4-carboxylic acid (2amino-4-chlorophenyl)amide (50 mg) are stirred in 1 ml of glacial acetic acid at 100° C. for 3 hours. After cooling, the precipitate is filtered off with suction, stirred with aqueous sodium bicarbonate solution and again filtered off with suction, washed with water and dried in vacuo.

reactant | 6-(2-Ethylaminopyrimidin-4-yl)-3-oxo-2,3-dihydropyridazine-4-carboxylic acid (2amino-4-chlorophenyl)amide | 50 mg | NC1=C(C=CC(=C1)Cl)NC(=O)C=1C(NN=C(C1)C1=NC(=NC=C1)NCC)=O | C17H16ClN7O2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 4-(5-Chloro-1H-benzoimidazol-2-yl)-6-(2-ethylaminopyrimidin-4-yl)-2H -pyridazin-3-one | ClC1=CC2=C(NC(=N2)C=2C(NN=C(C2)C2=NC(=NC=C2)NCC)=O)C=C1 | C17H14ClN7O
